US09303035B2
Step 3: (R)-6-(3-((tert-Butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-chlorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
A solution of (R)-5-(3-chlorophenyl)-6-(2,3-dihydroxypropyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (1.39 g, 3.8 mmol), tert-butylchlorodimethylsilane (633 mg, 4.2 mmol), imidazole (520 mg, 7.6 mmol) and DMAP (47 mg, 0.38 mmol) in DMF (14 mL) was stirred at room temperature for 2 hours. A further portion of tert-butylchlorodimethylsilane (172 mg, 1.1 mmol) was added and the mixture stirred for a further 1 hour. The reaction mixture was diluted with EtOAc (70 mL) and washed with 0.5M HCl (3×35 mL) and brine (1×35 mL). The organic phase was dried over magnesium sulfate and evaporated under vacuum. Trituration with hexane afforded the title compound.

reactant | (R)-5-(3-chlorophenyl)-6-(2,3-dihydroxypropyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 3.8 mmol, 1.39 g | ClC=1C=C(C=CC1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)C[C@H](CO)O | C17H18ClN3O4
reactant | tert-butylchlorodimethylsilane | 4.2 mmol, 633 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 7.6 mmol, 520 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 1.1 mmol, 172 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
catalyst | DMAP | 0.38 mmol, 47 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | (R)-6-(3-((tert-Butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-chlorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | [Si](C)(C)(C(C)(C)C)OC[C@@H](CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)Cl)=O)C)=O)C)O | C23H32ClN3O4Si
